US08859768B2
A mixture of 4-[5-(2-chlorophenyl)-4-(4-{[2-(trimethylsilyl)-ethoxy]methyl}-4H-1,2,4-triazol-3-yl)-1,3-oxazol-2-yl]-5-methylpyridin-2-amine (0.12 g, 0.25 mmol) and TEA (0.087 mL, 0.62 mmol) in DCM (2 mL) was allowed to stir at 0° C. for 20 min. To this mixture was added cyclopropanecarbonyl chloride (0.056 mL, 0.62 mmol). The reaction mixture was allowed to stir at 0° C. for 2 h and then MeOH (20 mL) was added. The mixture was allowed to stir at rt for 20 min and was then concentrated. MeOH (25 mL) and aqueous saturated NaHCO3 (4 mL) were added to the residue and the mixture was allowed to stir at rt overnight before NaOH (1M, 3 mL) was added. The reaction mixture was allowed to stir rt for 3 h and then concentrated. EtOAc (30 mL) was added to the residue and the mixture was allowed to stir at rt for 30 min. The mixture was filtered and the filtrate was concentrated. DCM (5 mL) and TFA (2 mL) were added to the residue and the mixture was allowed to stir at rt overnight. The reaction mixture was concentrated and purified by column chromatography to give N-{4-[5-(2-chlorophenyl)-4-(4H-1,2,4-triazol-3-yl)-1,3-oxazol-2-yl]-5-methylpyridin-2-yl}cyclopropanecarboxamide (Compound I-77) (0.025 g, 24%). LCMS (AA): m/z=421 (M+H).

reactant | 4-[5-(2-chlorophenyl)-4-(4-{[2-(trimethylsilyl)-ethoxy]methyl}-4H-1,2,4-triazol-3-yl)-1,3-oxazol-2-yl]-5-methylpyridin-2-amine | 0.25 mmol, 0.12 g | ClC1=C(C=CC=C1)C1=C(N=C(O1)C1=CC(=NC=C1C)N)C1=NN=CN1COCC[Si](C)(C)C | C23H27ClN6O2Si
reactant | cyclopropanecarbonyl chloride | 0.62 mmol, 0.056 mL | C1(CC1)C(=O)Cl | C4H5ClO
reactant | MeOH | 20 mL | CO | CH4O
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | N-{4-[5-(2-chlorophenyl)-4-(4H-1,2,4-triazol-3-yl)-1,3-oxazol-2-yl]-5-methylpyridin-2-yl}cyclopropanecarboxamide | 0.025 g, 24% | ClC1=C(C=CC=C1)C1=C(N=C(O1)C1=CC(=NC=C1C)NC(=O)C1CC1)C1=NN=CN1 | C21H17ClN6O2
